US07199135B2
TERT-BUTYL 3-BROMOPROPYLCARBAMATE:
A solution of 3-bromopropylamine hydrobromide (10.9 g, 49.8 mmol), BOC2O (11.4 g, 52.3 mmol) and K2CO3 (20.6 g, 149.4 mmol) in ethanol (100 ml) were stirred at room temperature overnight. The precipitated salts were removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane and washed with water, followed by brine. The organic layer was dried over MgSO4 and concentrated in vacuo to give 11.2 g (46.9 mmol, 94%) of the desired product: 1H NMR (400 MHz, CDCl3) δ 5.07 (br, 1H), 3.31 (t, 2H, J=6.6 Hz), 3.12 (apparent br q, 2H, J=6.0 Hz), 1.92 (quintet, 2H, J=6.6 Hz), 1.30 (s, 9H).

reactant | 3-bromopropylamine hydrobromide | 49.8 mmol, 10.9 g | Br.BrCCCN
reactant | BOC2O | 52.3 mmol, 11.4 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 149.4 mmol, 20.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | TERT-BUTYL 3-BROMOPROPYLCARBAMATE | 46.9 mmol, 11.2 g, 94% | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
